US07777047B2
N-(2-hydroxyethyl)-2-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide
To a solution of (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (200 mg), 1H-1,2,3-benzotriazol-1-ol (150 mg) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (190 mg) in tetrahydrofuran (3 mL) and acetonitrile (3 mL) was added 2-aminoethanol (100 mg), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated, water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (124 mg, yield 56%) as white crystals from a fraction eluted with ethyl acetate:hexane=50:50. melting point 214° C.

reactant | (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 200 mg | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O)S(=O)(=O)C=1SC=CC1 | C18H17N3O4S3
reactant | 1H-1,2,3-benzotriazol-1-ol | 150 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 190 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-aminoethanol | 100 mg | NCCO | C2H7NO
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | N-(2-hydroxyethyl)-2-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide | 124 mg, yield 56% | OCCNC(CC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)=O | C20H22N4O4S3
